US05110347
To 13.0 g (56.3 mmol) of 2-bromo-4-methyl-6-nitroaniline stirring in a mixture of 25 ml glacial acetic acid and 5 ml of concentrated hydrochloric acid at 80° C., 29.0 g (690.5 mmol) of cyanamide and 25 ml of concentrated hydrochloric acid were added simultaneously, separately, and very slowly. At one point during the addition, a vigorous exotherm occurred and the external heat immediately removed. After the addition, the reaction was heated at reflux for 15 minutes. On cooling to about 50° C., 100 ml of 25% aqueous sodium hydroxide were added dropwise and the mixture heated at reflux 15 minutes. The reaction was cooled to room temperature, the insoluble orange solid filtered and washed with water followed by ethyl acetate to afford 7.4 g of yellow 3-amino-5-bromo-7-methyl-1,2,4-benzotriazine-1-oxide after drying.

reactant | 2-bromo-4-methyl-6-nitroaniline | 56.3 mmol, 13.0 g | BrC1=C(N)C(=CC(=C1)C)[N+](=O)[O-] | C7H7BrN2O2
reactant | cyanamide | 690.5 mmol, 29.0 g | N#CN | CH2N2
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | hydrochloric acid | 5 ml | Cl | ClH
solvent | hydrochloric acid | 25 ml | Cl | ClH
product | 3-amino-5-bromo-7-methyl-1,2,4-benzotriazine-1-oxide | 7.4 g | NC=1N=[N+](C2=C(N1)C(=CC(=C2)C)Br)[O-] | C8H7BrN4O
